US08877739B2
Synthesis of N5-(3-sulfophenyl)-L-glutamine (Compound No. 1)
Boc-Glu-OtBu (75 mg, 0.247 mmol), HATU (112 mg, 0.296 mmol) and HOAt (41 mg, 0.296 mmol) were dissolved in 1 ml of DMF, and triethylamine (52 μl) was added to the solution, followed by stirring at room temperature for 10 minutes. 3-Sulfoaniline (43 mg, 0.247 mmol) was added thereto and stirred at room temperature overnight. After the solvent was removed by distillation, the mixture was purified according to the purification step A. The resulting intermediate was dissolved in 2 ml of trifluoroacetic acid. After stirring for 3 hours at room temperature, the solvent was removed by distillation. The product was purified according to the purification step A to give the title compound.

reactant | Boc-Glu-OtBu | 0.247 mmol, 75 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H25NO6
reactant | HATU | 0.296 mmol, 112 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | 0.296 mmol, 41 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 3-Sulfoaniline | 0.247 mmol, 43 mg | S(=O)(=O)(O)C=1C=C(N)C=CC1 | C6H7NO3S
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 52 μl | C(C)N(CC)CC | C6H15N
product | N5-(3-sulfophenyl)-L-glutamine | yield: 41% | S(=O)(=O)(O)C=1C=C(C=CC1)NC(CC[C@H](N)C(=O)O)=O | C11H14N2O6S
